US09120777B2
B) 2,4′-Difluoro-3-(methoxymethoxy)biphenyl
A mixture of 1-bromo-2-fluoro-3-(methoxymethoxy)benzene (17.9 g), (4-fluorophenyl)boronic acid (16.0 g), tris(dibenzylideneacetone)dipalladium(0) (3.49 g), a 2 M aqueous sodium carbonate solution (114 mL), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (3.13 g), and toluene (180 mL) was stirred at 100 C for 2 hours in a nitrogen atmosphere. The reaction mixture was cooled to room temperature and then passed through celite. The organic layer was separated, and the solvent was distilled off under reduced pressure. The obtained residue was passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure to obtain the title compound (19.0 g).

reactant | 1-bromo-2-fluoro-3-(methoxymethoxy)benzene | 17.9 g | BrC1=C(C(=CC=C1)OCOC)F | C8H8BrFO2
reactant | (4-fluorophenyl)boronic acid | 16.0 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2 M, 114 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 3.13 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 3.49 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4′-Difluoro-3-(methoxymethoxy)biphenyl | 19.0 g | FC1=C(C=CC=C1OCOC)C1=CC=C(C=C1)F | C14H12F2O2
